US05665725
A mixture of benzo[b]thiophen-3-one (30 g), ethyl 3-bromopropionate (73 g), potassium carbonate (55 g), potassium iodide (1.3 g) and acetone (600 ml) was refluxed for 18 h. Filtration and removal of solvent in vacuo a red oil which was dissolved in ether (200 ml) and dried over magnesium sulfate. The ether solution was added dropwise to a suspension of lithium aluminium hydride (5 g) in ether (100ml) followed by reflux for 1 h. Usual work-up gave a viscous oil which was applied to a silica gel Column (eluent:isopropyl ether) giving 3-(benzo[b]thiophen-3-yloxy)-1-propanol (0.54 g) as an oil. The title compound was obtained according to the method described in EXAMPLE 2 using spiro[isobenzofuran-1(3H),4'-piperidine] and crystallized as the maleate salt from an acetone/ether mixture by addition of maleic acid. Yield: 0.34 g, mp: 116°-17° C.

reactant | benzo[b]thiophen-3-one | 30 g | S1C2=C(C(C1)=O)C=CC=C2 | C8H6OS
reactant | ethyl 3-bromopropionate | 73 g | BrCCC(=O)OCC | C5H9BrO2
reactant | potassium carbonate | 55 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.3 g | [I-].[K+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 3-(benzo[b]thiophen-3-yloxy)-1-propanol | 0.54 g | S1C2=C(C(=C1)OCCCO)C=CC=C2 | C11H12O2S
